US04908454
To 5 g of 3-(2-aminothiazol-4-ylmethylthio)propionitrile were added 11 g of amidinopyrazole hydrochloride and 15 ml of 1,3-dimethyl-2- imidazolidinone and the mixture was heated to 110°-120° C. for 4 hours. After cooling, 120 ml of water was added to the reaction mixture and then the product was extracted twice with 50 ml of ethyl acetate and washed. The aqueous layer thus formed was collected, added with 11 g of anhydrous potassium carbonate and 10 ml of isopropanol, the crystals thus formed were collected by filtration to provide 2.33 g of 3-(2-guanidinothiazol-4-ylmethylthio)propionitrile having a melting point of 127°-128° C.

reactant | 3-(2-aminothiazol-4-ylmethylthio)propionitrile | 5 g | NC=1SC=C(N1)CSCCC#N | C7H9N3S2
reactant | amidinopyrazole hydrochloride | 11 g | Cl.C(N)(=N)C1=NNC=C1
reactant | 1,3-dimethyl-2- imidazolidinone | 15 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | water | 120 ml | O | H2O
product | 3-(2-guanidinothiazol-4-ylmethylthio)propionitrile | 2.33 g | N(C(=N)N)C=1SC=C(N1)CSCCC#N | C8H11N5S2
